### PR TITLE
[Merged by Bors] - feat(Algebra/Category): `IsQuasicoherent` from a cover

### PR DESCRIPTION
**Pull request by erdOne**
Co-authored-by: Florian Kaufmann
Co-authored-by: Ben Eltschig

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Sieves.lean [hunk 1]
```diff
@@ -1092,6 +1105,12 @@ lemma mem_functorPushforward_iff_of_full_of_faithful [F.Full] [F.Faithful]
   refine ⟨fun ⟨g, hcomp, hg⟩ ↦ ?_, fun hf ↦ ⟨f, rfl, hf⟩⟩
   rwa [← F.map_injective hcomp]
 
+lemma functorPushforward_ofObjects
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Sieves.lean]:
```suggestion
lemma functorPushforward_ofObjects_le
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 2]
```diff
@@ -216,7 +236,10 @@ end QuasicoherentData
 /-- A sheaf of modules is quasi-coherent if it is locally the cokernel of a
 morphism between coproducts of copies of the sheaf of rings. -/
 class IsQuasicoherent (M : SheafOfModules.{u} R) : Prop where
-  nonempty_quasicoherentData : Nonempty M.QuasicoherentData := by infer_instance
+  nonempty_quasicoherentData : Nonempty (QuasicoherentData.{u₁} M) := by infer_instance
+
+lemma QuasicoherentData.IsQuasicoherent {M : SheafOfModules.{u} R} (q : M.QuasicoherentData) :
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]:
```suggestion
lemma QuasicoherentData.isQuasicoherent {M : SheafOfModules.{u} R} (q : M.QuasicoherentData) :
```

**Comment by joelriou** [comment]
bors d+

**Comment by erdOne** [comment]
bors merge
